US06232314B1
Step A: 1-(3-(1,1-dimethylethyl)-4-hydroxy-5-methylphenyl)methylpiperazine
This was prepared using the general methodology described for the preparation of 1-(3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl)methylpiperazine except that 3-(1,1-dimethylethyl)-4-hydroxy-5-methylbenzaldehyde replaced the 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzaldehyde.

reactant | 1-(3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl)methylpiperazine | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CN1CCNCC1 | C19H32N2O
reactant | 3-(1,1-dimethylethyl)-4-hydroxy-5-methylbenzaldehyde | CC(C)(C)C=1C=C(C=O)C=C(C1O)C | C12H16O2
reactant | 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzaldehyde | CC(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
product | 1-(3-(1,1-dimethylethyl)-4-hydroxy-5-methylphenyl)methylpiperazine | CC(C)(C)C=1C=C(C=C(C1O)C)CN1CCNCC1 | C16H26N2O
